US06492362B1
A mixture of ammonium chloride (24.9 g, 465 mmol) and 2-thiophenecarboxaldehyde (21.2 mL, 227 mmol) in 250 mL diethyl ether was treated with an 80 mL aqueous solution of sodium cyanide (16.7 g, 341 mmol) over 20 minutes. The mixture was allowed to stir for 16 hours. The aqueous layer was removed. The ether layer was washed (2×100 mL) with saturation sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in 250 mL diethyl ether and cooled in an ice bath. Hydrogen chloride was bubbled through the solution until precipitation was complete. The salt was filtered and dried under reduced pressure to give 9.8 g of 2-(2-thienyl)aminoacetonitrile hydrochloride.

reactant | ammonium chloride | 465 mmol, 24.9 g | [Cl-].[NH4+]
reactant | 2-thiophenecarboxaldehyde | 227 mmol, 21.2 mL | S1C(=CC=C1)C=O | C5H4OS
reactant | sodium cyanide | 341 mmol, 16.7 g | [C-]#N.[Na+]
reactant | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 2-(2-thienyl)aminoacetonitrile hydrochloride | 9.8 g | Cl.S1C(=CC=C1)NCC#N | InChI=1S/C6H6N2S.ClH/c7-3-4-8-6-2-1-5-9-6;/h1-2,5,8H,4H2;1H
